US07504526B2
Commercially available 5-bromo acenaphthene in an amount of 11.7 g was dissolved into a mixed solution of dehydrated toluene in an amount 50 milliliter and dehydrated ether in an amount of 50 milliliter, and the resultant solution was cooled down to −40° C. under an atmosphere of argon gas. Thirty five milliliter of 1.6M-normal butyllithium hexane solution was dripped into the resultant solution, followed by elevating the temperature up to −10° C. Two hours later, the resultant solution was cooled down to −70° C. and further, another solution prepared by dissolving triisopropoxyborane in an amount of 35 milliliter into 50 milliliter of ether was dripped into the solution. After stirring the resultant solution for 3 hours at the temperature of −70° C., it was left standing for one night. After the night, the resultant solution was acidified in a dilute hydrochloric acid of 10% by weight and an organic layer was extracted with the use of toluene. Washing with the use of both dilute hydrochloric acid and a saturated sodium chloride solution, the organic layer was dried with anhydrous sodium sulfate, and the organic solvent was distillated by means of an evaporator. Crystallizing the residues with the use of toluene/hexane, 4.5 g of 5-acenaphthene boronic acid was obtained (yield: 45%).

reactant | 5-bromo acenaphthene | BrC1=CC=C2CCC=3C=CC=C1C32 | C12H9Br
reactant | normal butyllithium hexane | CCCCCC.C(CCC)[Li]
reactant | triisopropoxyborane | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 50 milliliter | CCOCC | C4H10O
product | 5-acenaphthene boronic acid | 4.5 g, yield: 45% | C1CC2=CC=C(C3=CC=CC1=C23)B(O)O | C12H11BO2
